US09216968B2
Ethyl 5-({[2-(Trifluoromethyl)phenyl]carbonyl}amino)-2,3-dihydro-1-benzofuran-7-carboxylate
1,4-dioxane (20 ml) was added to ethyl 5-bromo-2,3-dihydro-1-benzofuran-7-carboxylate (600 mg), 2-(trifluoromethyl)benzamide (501 mg), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (96 mg), cesium carbonate (1.01 g) and tris(dibenzylideneacetone)dipalladium (114 mg). After degassing, the mixture was stirred at 100° C. under argon atmosphere for 24 hours. The reaction mixture was filtered off on celite, and the solvent was removed under reduced pressure. The resultant residue was purified on silica gel column chromatography to obtain the titled compound (220 mg) as slightly yellow powder.

reactant | ethyl 5-bromo-2,3-dihydro-1-benzofuran-7-carboxylate | 600 mg | BrC=1C=C(C2=C(CCO2)C1)C(=O)OCC | C11H11BrO3
reactant | 2-(trifluoromethyl)benzamide | 501 mg | FC(C1=C(C(=O)N)C=CC=C1)(F)F | C8H6F3NO
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 96 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 1.01 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium | 114 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | Ethyl 5-({[2-(Trifluoromethyl)phenyl]carbonyl}amino)-2,3-dihydro-1-benzofuran-7-carboxylate | 220 mg | FC(C1=C(C=CC=C1)C(=O)NC=1C=C(C2=C(CCO2)C1)C(=O)OCC)(F)F | C19H16F3NO4
